US05455339
A solution of 5-methyluridine (1.42 g, 5.49 mmol), imidazole (0,816 g, 11.26 mmol) and tertbutyldimethylsilyl chloride (0.9 g, 6.01 mmol) was stirred at room temperature for 24 hours and then concentrated in vacuo. The residue obtained was purified by chromatography on a silica gel column using CHCl3 -methanol (30:1) as the eluent to give 1.49 g (73%) of 5'-O-tert-butyldimethylsilyl-5-methyluridine as a colorless solid: mp 209°-211° C. (ethyl acetate); 1H NMR (DMSO-d6) δ 0.0 (6H, s, (CH3)2Si), 0.81 (9H, s, (CH3)3CSi), 3.60-3.90 (5H, m, 2, 3, 4' and 5'-H), 4.97 (1H, d, J=4.39 Hz, 3'-OH, exchangeable), 5.25 (1H, d, J=5.57 Hz, 2'-OH, exchangeable), 5.71 (1H, d, J=5.57 Hz, 1'-H), 7.32 (1H, s, 6-H), 11.21 (1H, s, NH, exchangeable).

reactant | 5-methyluridine | 5.49 mmol, 1.42 g | CC=1C(NC(N([C@H]2[C@H](O)[C@H](O)[C@@H](CO)O2)C1)=O)=O | C10H14N2O6
reactant | imidazole | 11.26 mmol, 0,816 g | N1C=NC=C1 | C3H4N2
reactant | tertbutyldimethylsilyl chloride | 6.01 mmol, 0.9 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
product | 5'-O-tert-butyldimethylsilyl-5-methyluridine | 1.49 g, 73% | [Si](C)(C)(C(C)(C)C)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C(=O)NC(=O)C(=C1)C)O)O | C16H28N2O6Si
